* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1490.asc
* Generated by LTspice 24.1.9 for Windows.
V1 +V 0 5
R1 OUT N001 50K
X§U1 N002 N001 +V 0 OUT LT1490A
C1 N001 0 .1µ
R2 OUT N002 59K
R3 +V N002 100K
R4 N002 0 100K
.tran 1 startup
* Square Wave Oscillator
.lib LTC.lib
.backanno
.end
